US07300907B2
A solution of 3-bromo-6-chloro-2-fluorophenol (15.4 g, 0.068 mol) in dimethylformamide (DMF; 25 mL) was slowly added to a suspension of sodium hydride (60% dispersion in mineral oil) (4.0 g, 0.10 mol) in DMF (100 mL) and the reaction mixture was stirred one hour. A solution of methanesulfonic acid 2,2-difluoroethyl ester (17.5 g, 0.109 mol) in DMF (10 mL) was slowly added. The resulting solution was heated at 70° C. for eighteen hours. The cooled solution was diluted with water (200 mL) and extracted with ethyl ether. The combined organic phases were dried and concentrated. The residual oil was purified by column chromatography (in hexanes) to give 1-bromo-4-chloro-3-(2,2-difluoroethoxy)-2-fluorobenzene (9.0 g, 0.031 mol): 1H NMR (CDCl3): δ 7.26 (m, 1H), 7.09 (m, 1H), 6.12 (tt, 1H), 4.30 (td, 2H).

reactant | 3-bromo-6-chloro-2-fluorophenol | 0.068 mol, 15.4 g | BrC=1C(=C(C(=CC1)Cl)O)F | C6H3BrClFO
reactant | sodium hydride | 0.10 mol, 4.0 g | [H-].[Na+]
reactant | methanesulfonic acid 2,2-difluoroethyl ester | 0.109 mol, 17.5 g | FC(COS(=O)(=O)C)F | C3H6F2O3S
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | DMF | 100 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 1-bromo-4-chloro-3-(2,2-difluoroethoxy)-2-fluorobenzene | 0.031 mol, 9.0 g | BrC1=C(C(=C(C=C1)Cl)OCC(F)F)F | C8H5BrClF3O
